### PR TITLE
[Merged by Bors] - refactor(FractionalIdeal): use algebraic order theory API

### PR DESCRIPTION
**Pull request by YaelDillies**
Instantiate instances earlier and use generic lemmas instead of the `FractionalIdeal`-specific ones.
Also rename `_nonzero` in lemma names to `_ne_zero`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/DedekindDomain/Factorization.lean [hunk 1]
```diff
@@ -717,7 +717,7 @@ lemma divMod_zero_of_not_le {a b c : FractionalIdeal R⁰ K} (hac : ¬ a ≤ c)
     c.divMod b a = 0 := by
   simp [divMod, hac]
 
-set_option maxHeartbeats 210000 in
+set_option maxHeartbeats 230000 in
```
Comment (chrisflav) [inline Mathlib/RingTheory/DedekindDomain/Factorization.lean]: Why did this proof become slower?

File: Mathlib/NumberTheory/NumberField/CanonicalEmbedding/Basic.lean [hunk 2]
```diff
@@ -710,6 +710,7 @@ variable (I : (FractionalIdeal (𝓞 K)⁰ K)ˣ)
 abbrev idealLattice : Submodule ℤ (mixedSpace K) := LinearMap.range <|
   (mixedEmbedding K).toIntAlgHom.toLinearMap ∘ₗ ((I : Submodule (𝓞 K) K).subtype.restrictScalars ℤ)
 
+omit [NumberField K] in
 theorem mem_idealLattice {x : mixedSpace K} :
```
Comment (chrisflav) [inline Mathlib/NumberTheory/NumberField/CanonicalEmbedding/Basic.lean]: It this related to the other changes?

File: Mathlib/RingTheory/DedekindDomain/Ideal/Basic.lean [hunk 3]
```diff
@@ -393,14 +398,6 @@ open FractionalIdeal
 
 open Ideal
 
-noncomputable instance FractionalIdeal.semifield : Semifield (FractionalIdeal A⁰ K) where
-  __ := coeIdeal_injective.nontrivial
```
Comment (chrisflav) [inline Mathlib/RingTheory/DedekindDomain/Ideal/Basic.lean:397]: Was this removed without replacement or did I just not find it? If the former, what is the reason?

File: Mathlib/RingTheory/FractionalIdeal/Basic.lean [hunk 4]
```diff
@@ -553,12 +555,20 @@ theorem coeIdeal_mul (I J : Ideal R) : (↑(I * J) : FractionalIdeal S P) = I *
...
+  elim I J J' h := by simpa only [mul_def] using mul_le.mpr fun x hx y hy => mul_mem_mul hx (h hy)
+
+instance : MulRightMono (FractionalIdeal S P) where
+  elim I J J' h := by simpa only [mul_def] using mul_le.mpr fun x hx y hy => mul_mem_mul (h hx) hy
+
+@[deprecated _root_.mul_right_mono (since := "2025-09-09")]
+protected theorem mul_left_mono (I : FractionalIdeal S P) : Monotone (I * ·) := by
   intro J J' h
   simp only [mul_def]
   exact mul_le.mpr fun x hx y hy => mul_mem_mul hx (h hy)
```
Comment (chrisflav) [inline Mathlib/RingTheory/FractionalIdeal/Basic.lean]:
```suggestion
protected theorem mul_left_mono (I : FractionalIdeal S P) : Monotone (I * ·) := mul_right_mono
```

File: Mathlib/RingTheory/FractionalIdeal/Basic.lean [hunk 5]
```diff
@@ -553,12 +555,20 @@ theorem coeIdeal_mul (I J : Ideal R) : (↑(I * J) : FractionalIdeal S P) = I *
...
 
-theorem mul_right_mono (I : FractionalIdeal S P) : Monotone fun J => J * I := by
+@[deprecated _root_.mul_left_mono (since := "2025-09-09")]
+protected theorem mul_right_mono (I : FractionalIdeal S P) : Monotone fun J => J * I := by
   intro J J' h
   simp only [mul_def]
   exact mul_le.mpr fun x hx y hy => mul_mem_mul (h hx) hy
```
Comment (chrisflav) [inline Mathlib/RingTheory/FractionalIdeal/Basic.lean]:
```suggestion
protected theorem mul_right_mono (I : FractionalIdeal S P) : Monotone fun J => J * I := mul_left_mono
```

File: Mathlib/RingTheory/FractionalIdeal/Basic.lean [hunk 6]
```diff
@@ -622,25 +632,23 @@ variable {S P}
 
 section Order
 
-instance : AddLeftMono (FractionalIdeal S P) where
-  elim _ _ _ hIJ := sup_le_sup_left hIJ _
+@[deprecated _root_.add_le_add_left (since := "2025-09-14")]
+theorem add_le_add_left {I J : FractionalIdeal S P} (hIJ : I ≤ J) (J' : FractionalIdeal S P) :
+    J' + I ≤ J' + J :=
+  sup_le_sup_left hIJ J'
```
Comment (chrisflav) [inline Mathlib/RingTheory/FractionalIdeal/Basic.lean]:
```suggestion
    J' + I ≤ J' + J := _root_.add_le_add_left hIJ _
```

File: Mathlib/RingTheory/FractionalIdeal/Basic.lean [hunk 7]
```diff
@@ -622,25 +632,23 @@ variable {S P}
...
-
-instance : MulLeftMono (FractionalIdeal S P) where
-  elim _ _ _ hIJ := mul_le.2 fun _ hk _ hj ↦ mul_mem_mul hk (hIJ hj)
-
-instance : MulRightMono (FractionalIdeal S P) where
-  elim _ _ _ hIJ := mul_le.2 fun _ hk _ hj ↦ mul_mem_mul (hIJ hk) hj
+@[deprecated _root_.mul_le_mul_left' (since := "2025-09-14")]
+theorem mul_le_mul_left {I J : FractionalIdeal S P} (hIJ : I ≤ J) (J' : FractionalIdeal S P) :
+    J' * I ≤ J' * J :=
+  mul_le.mpr fun _ hk _ hj => mul_mem_mul hk (hIJ hj)
```
Comment (chrisflav) [inline Mathlib/RingTheory/FractionalIdeal/Basic.lean]:
```suggestion
    J' * I ≤ J' * J := _root_.mul_le_mul_left' hIJ _
```

File: Mathlib/RingTheory/FractionalIdeal/Inverse.lean [hunk 8]
```diff
@@ -75,21 +78,8 @@ theorem coe_ideal_le_self_mul_inv (I : Ideal R₁) :
...
-    rw [mul_comm]
-    exact (mem_div_iff_of_nonzero hI).mp hy x hx
-  rw [← h]
-  apply mul_left_mono I
-  apply (le_div_iff_of_nonzero hI).mpr _
-  intro y hy x hx
-  rw [mul_comm]
-  exact mul_mem_mul hy hx
+theorem right_inverse_eq (I J : FractionalIdeal R₁⁰ K) (h : I * J = 1) : J = I⁻¹ :=
+  eq_one_div_of_mul_eq_one_right _ _ h
```
Comment (chrisflav) [inline Mathlib/RingTheory/FractionalIdeal/Inverse.lean:82]: Should this also be `deprecated`?

**Review by chrisflav — COMMENTED** [review]
Sorry for letting you wait for so long. Looks like a clear improvement overall. Some comments below.

File: Mathlib/NumberTheory/NumberField/CanonicalEmbedding/Basic.lean (hunk 2 above)
Comment (YaelDillies) [reply Mathlib/NumberTheory/NumberField/CanonicalEmbedding/Basic.lean]: No, it seems like the linter was previously not catching this, but now is for some unclear reason

File: Mathlib/RingTheory/DedekindDomain/Factorization.lean (hunk 1 above)
Comment (YaelDillies) [reply Mathlib/RingTheory/DedekindDomain/Factorization.lean]: No specific reason. It was very close to the limit, and the changes in this PR increased the heartbeats slightly past the limit

File: Mathlib/NumberTheory/NumberField/CanonicalEmbedding/Basic.lean (hunk 2 above)
Comment (chrisflav) [reply Mathlib/NumberTheory/NumberField/CanonicalEmbedding/Basic.lean]: Maybe the `simp` now does different things with more general infrastructure available. Anyways, less assumptions is better.

File: Mathlib/RingTheory/FractionalIdeal/Inverse.lean (hunk 8 above)
Comment (YaelDillies) [reply Mathlib/RingTheory/FractionalIdeal/Inverse.lean:82]: No, this cannot be. `FractionalIdeal.eq_one_div_of_mul_eq_one_right` is still `FractionalIdeal`-specific and, more importantly, doesn't syntactically match the lemma at hand (`1 / I` vs `I⁻¹`)

File: Mathlib/RingTheory/DedekindDomain/Ideal/Basic.lean (hunk 3 above)
Comment (YaelDillies) [reply Mathlib/RingTheory/DedekindDomain/Ideal/Basic.lean:397]: There was a reason, but I can't remember 🤔 Maybe the reason was transient, I've put it back for now

File: Mathlib/RingTheory/DedekindDomain/Ideal/Basic.lean [hunk 9]
```diff
@@ -310,77 +323,84 @@ theorem coe_ideal_mul_inv [h : IsDedekindDomain A] (I : Ideal A) (hI0 : I ≠ 
...
+  elim I J K hJK := by simpa [I.2.ne'] using mul_right_mono (a := I.1⁻¹) hJK
+
+instance : MulPosReflectLE (FractionalIdeal A⁰ K) where
+  elim I J K hJK := by simpa [I.2.ne'] using mul_left_mono (a := I.1⁻¹) hJK
+
 /-- Nonzero fractional ideals in a Dedekind domain are units.
 
 This is also available as `_root_.mul_inv_cancel`, using the
 `Semifield` instance defined below.
 -/
```
Comment (chrisflav) [inline Mathlib/RingTheory/DedekindDomain/Ideal/Basic.lean]:
```suggestion
```
At least the "`Semifield` instance defined below" bit is misleading, but I think we can safely get rid of the whole docstring.

**Review by chrisflav — APPROVED** [review]
Thanks!
maintainer delegate

File: Mathlib/RingTheory/DedekindDomain/Factorization.lean [hunk 10]
```diff
@@ -715,7 +715,7 @@ lemma divMod_zero_of_not_le {a b c : FractionalIdeal R⁰ K} (hac : ¬ a ≤ c)
...
```
Comment (Vierkantor) [inline Mathlib/RingTheory/DedekindDomain/Factorization.lean]: Don't we round to the nearest power of two anyway to avoid this kind of sensitivity?
```suggestion
set_option maxHeartbeats 400000 in
```

**Review by Vierkantor — APPROVED** [review]
Nice work!

bors d+

File: Mathlib/RingTheory/DedekindDomain/Factorization.lean (hunk 10 above)
Comment (YaelDillies) [reply Mathlib/RingTheory/DedekindDomain/Factorization.lean]: Oh actually now it can be dropped entirely!

**Comment by YaelDillies** [comment]
bors merge

**Comment by chrisflav** [comment]
> I have no idea how `gh` works, sorry. But if you get new commits coming from a branch you check out with `gh`, that means that your local branch is somehow linked to my remote branch, and therefore that your local git knows about my remote branch. All you need to find out is what git calls the remote branch.

I had tried this and `git` shows:
```
From github.com:leanprover-community/mathlib4
 * branch                    refs/pull/29538/head -> FETCH_HEAD
```
after `gh pr checkout`, so `refs/pull/29538/head` would be the canonical candidate. But `git reset --hard refs/pull/29538/head` fails with
```
fatal: Failed to resolve 'refs/pull/29538/head' as a valid revision.
```
(I have tried some permutations of this with no success).

However, I just found https://cli.github.com/manual/gh_pr_checkout and the correct command to use is `gh pr checkout <pr number> -f` to force-update.
